US06603008B1
5-{5-[4-(1,3-Thiazol-4-yl)-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide (Step 6)
The title compound was prepared according to the procedure of step 3, 4 in the example 4 using 5-{5-[4-bromo-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide, instead of 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide.

reactant | 5-{5-[4-bromo-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | BrC1=C(C=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)C(F)(F)F | C16H9BrF6N4O2S
reactant | 5-[5-(4-bromophenyl)-4-chloro-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)Cl | C15H9BrClF3N4O2S
product | 5-{5-[4-(1,3-Thiazol-4-yl)-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | S1C=NC(=C1)C1=C(C=C(C=C1)C1=CC(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)C(F)(F)F | C19H11F6N5O2S2
